US06531491B1
To a mixture of 6-nitro-3-iodo-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole (4.2 g, 10 mmol), boronic acid (3.46 g, 15 mmol), and Pd(PPh3)4 (0.58 g, 0.5 mmol) at 23° C. under an atmosphere of argon was added 1,4-dioxane (38 mL) and 2N NaOH (aq) (12.5 mL, 25 mmol). The resulting mixture was heated to 90° C. After 2 h the reaction was diluted with EtOAc (100 mL) and water (70 mL), the phases were separated and the organic was extracted 2×100 mL EtOAc. The pooled organic phase was washed with brine (20 mL) then dried with Na2SO4, filtered and concentrated under reduced pressure. The crude mixture was purified by silica gel chromatography (eluting with 9:1 hexane:EtOAc) to give 3-(2-benzo[1,3]dioxol-5-yl-vinyl)-6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole as a yellow solid (4.15 g, 94% yield). FTIR (thin film) 2950, 2898, 1523, 1501, 1483, 1446, 1344, 1249, 1080, 1043, 927 cm−1; 1H NMR (300 MHz, CDCl3) δ 8.56 (dd, 1H, J=0.68, 1.75 Hz), 8.14 (d, 1H, J=1.78 Hz), 8.13 (d, 1H, J=0.67 Hz), 7.50 (d, 1H, 16.53 Hz), 7.25 (d, 1H, 16.52 Hz), 7.18 (d, 1H, J=1.67 Hz), 7.07 (dd, 1H, J=1.65, 8.13 Hz), 6.88 (d, 1H, J=8.0 Hz), 6.05 (s, 2H), 5.84 (s, 2H), 3.66 (t, 2H, J=7.33 Hz), 0.97 (t, 2H, J=7.24 Hz), 0.0 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 148.5, 148.2, 147.0, 143.9, 140.1, 132.7, 131.3, 126.1, 122.3, 121.9, 116.7, 116.5, 108.7, 106.9, 105.7, 101.5, 78.4, 67.2, 17.9, −1.3; LCMS (ESI) [M+H]/z Calc'd 531, found 531.

reactant | 6-nitro-3-iodo-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | 10 mmol, 4.2 g | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)I | C13H18IN3O3Si
reactant | boronic acid | 15 mmol, 3.46 g | B(O)O | BH3O2
reactant | 1,4-dioxane | 38 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | 25 mmol, 2N, 12.5 mL | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 70 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-benzo[1,3]dioxol-5-yl-vinyl)-6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | 4.15 g, 94% yield | O1COC2=C1C=CC(=C2)C=CC2=NN(C1=CC(=CC=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C22H25N3O5Si
